US05159116
A dry, 2-L flask equipped with a septum inlet, magnetic stirring bar, and a reflux condenser leading to a mercury bubbler was flushed with dry nitrogen and maintained under static pressure of nitrogen. The flask was charged with 170 mL (1 mol) of (-)-nopol [[α]23D 40.2 (neat)] and 400 mL tetrahydrofuran (THF) and cooled to -78° C. While the solution was stirring at -78° C., 455 mL (2.2M, 1 mol) of n-BuLi was added slowly and stirred for 1 h at -78° C.; 190 g (1 mol) of p-toluenesulfonyl chloride in 200 mL of THF was added slowly and the stirring continued for another hour at at -78° C. It was then warmed to room temperature and stirred for 2 h. The reaction mixture was poured into ice-water and extracted with pentane. Evaporation of the solvent gave a thick semi-solid of nopol tosylate in 90% yield (290 g). Nopol tosylate (290 g) was dissolved in hot pentane (800 mL) and stored at 0° C. for 12 h to insure complete crystallization. Colorless white needles of Nopol tosylate (mp 50°-51° C.) were recovered by fast filtration in 85% yield.

reactant | (-)-nopol | 1 mol, 170 mL | CC1(C2CC=C(C1C2)CCO)C | C11H18O
reactant | n-BuLi | 1 mol, 2.2M, 455 mL | [Li]CCCC
reactant | p-toluenesulfonyl chloride | 1 mol, 190 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 200 mL | O1CCCC1 | C4H8O
catalyst | mercury | [Hg] | Hg
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | nopol tosylate | 90% yield | CC1(C2CC=C(C1C2)CCO)C.S(=O)(=O)([O-])C1=CC=C(C)C=C1 | InChI=1S/C11H18O.C7H8O3S/c1-11(2)9-4-3-8(5-6-12)10(11)7-9;1-6-2-4-7(5-3-6)11(8,9)10/h3,9-10,12H,4-7H2,1-2H3;2-5H,1H3,(H,8,9,10)/p-1
